US06451814B1
4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid Amide
4-[4-(2-Aminoethyl)anilino]-1-piperidinecarboxamide formate (0.76 g, 2.37 mmol) was reacted with tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane (0.817 g, 2.02 mmol) according to Procedure G to give the title compound (eluant: 20:1 chloroform-methanol) (0.175 g, 0.26 mmol).

reactant | 4-[4-(2-Aminoethyl)anilino]-1-piperidinecarboxamide formate | 2.37 mmol, 0.76 g | C(=O)O.NCCC1=CC=C(NC2CCN(CC2)C(=O)N)C=C1
reactant | tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane | 2.02 mmol, 0.817 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1OC1 | C25H28O3Si
product | 4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid Amide | 0.26 mmol, 0.175 g | O[C@@H](CNCCC1=CC=C(C=C1)NC1CCN(CC1)C(=O)N)COC1=CC=C(C=C1)O | C23H32N4O4
